US06605716B2
At room temperature, a three-necked flask fitted with reflux condenser, internal thermometer, dropping funnel and stirrer was charged, under nitrogen protective gas, with 5.5 g of zinc powder (84 mmol) in 34 ml of ethyl acetate. After 1.6 ml of trimethylchlorosilane (12.5 mmol) had been added, the mixture was heated at 65° C. Following cooling to 60° C., 7.2 g of octanal (56 mmol) were added, and over the course of 4 min, 11.2 g of methyl 2-bromopropionate (67 mmol) were added dropwise, the temperature being maintained at 65° C. by external cooling. The mixture was then stirred at 60° C. for 5 min and, after cooling to 0° C., acidified with 40 ml of 2 N hydrochloric acid to a pH of 1 and stirred for 30 min. Excess zinc was removed by filtration and the organic phase separated. The organic phase was then stirred at 0° C. with 40 ml of 0.5 N hydrochloric acid and finally washed with 20 ml of saturated sodium hydrogen carbonate solution. Following phase separation and drying over sodium sulfate, the solvent was removed by distillation under reduced pressure. Methyl 3-hydroxy-2-methyldecanoate was obtained in a yield of 10.2 g (85% of theory) with a boiling point of 68° C. (0.04 mbar). The diastereomer ratio was 2:1.

reactant | trimethylchlorosilane | 12.5 mmol, 1.6 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | octanal | 56 mmol, 7.2 g | C(CCCCCCC)=O | C8H16O
reactant | methyl 2-bromopropionate | 67 mmol, 11.2 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | hydrochloric acid | 2 N, 40 ml | Cl | ClH
solvent | ethyl acetate | 34 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 84 mmol, 5.5 g | [Zn] | Zn
product | Methyl 3-hydroxy-2-methyldecanoate | OC(C(C(=O)OC)C)CCCCCCC | C12H24O3
